US08669266B2
(iii) 4-Benzyloxycarbonylmethoxy-quinoline-2-carboxylic acid ethyl ester
To a solution of 10 g of 4-Hydroxy-quinoline-2-carboxylic acid ethyl ester in 300 ml of DMF, 10 g of potassium carbonate and 15.2 g of Bromo-acetic acid benzyl ester was added and stirred for 16 h. Then, the reaction mixture was diluted with water and extracted with ethyl acetate (3×150 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with n-heptane/ethyl acetate (2/8). The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 10.2 g.

reactant | 4-Hydroxy-quinoline-2-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C1=NC2=CC=CC=C2C(=C1)O | C12H11NO3
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromo-acetic acid benzyl ester | 15.2 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Benzyloxycarbonylmethoxy-quinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1 | C21H19NO5
